US08242104B2
To a solution of 4-{2-[(2-hydroxy-ethyl)-isopropyl-carbamoyl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (112 mg, 0.23 mmol) in IMS (3 mL) was added hydrochloric acid (2 mL, 2M, 4.0 mmol) and palladium on carbon (20 mg, 10% by wt) added. The reaction mixture was stirred under an atmosphere of hydrogen at 50° C. for 4.5 h. The reaction mixture was filtered and the solids washed with IMS (10 mL). The filtrate was concentrated in vacuo and azeotroped with acetonitrile to yield 8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid (2-hydroxy-ethyl)-isopropyl-amide hydrochloride as a thick oil (110 mg). LCMS: RT=0.32 min, [M+H]+=399

reactant | 4-{2-[(2-hydroxy-ethyl)-isopropyl-carbamoyl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.23 mmol, 112 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(C3=NC(=CN3CCO2)C(N(C(C)C)CCO)=O)C=C1 | C27H36N4O5
reactant | hydrochloric acid | 4.0 mmol, 2M, 2 mL | Cl | ClH
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | 8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid (2-hydroxy-ethyl)-isopropyl-amide hydrochloride | 110 mg | Cl.OCCN(C(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C3CCNCC3)C(C)C | InChI=1S/C22H30N4O3.ClH/c1-15(2)26(9-11-27)22(28)19-14-25-10-12-29-20-13-17(16-5-7-23-8-6-16)3-4-18(20)21(25)24-19;/h3-4,13-16,23,27H,5-12H2,1-2H3;1H
